US07846960B2
4-[({4-[4-Cyclopropyl-2-(2-trifluoromethoxy-phenyl)-2H-pyrazol-3-ylmethoxy]-2-methyl-phenyl}-methyl-amino)-methyl]-2-methoxy-benzoic Acid
A mixture of 4-[({4-[4-cyclopropyl-2-(2-trifluoromethoxy-phenyl)-2H-pyrazol-3-ylmethoxy]-2-methyl-phenyl}-methyl-amino)-methyl]-2-methoxy-benzoic acid methyl ester (0.30 g, 0.51 mmol), sodium hydroxide (5 N, 0.5 mL), THF (3 mL) and methanol (3 mL) is heated to reflux for 1 h. The reaction is cooled and acidified with 5 N HCl, then diluted with water and extracted with ethyl acetate. The combined organic layers are washed with brine and dried over MgSO4 to give the tile compound (285 mg, 97%) as an off-white foam. LC-ES/MS m/e 582.0 (M+1).

reactant | 4-[({4-[4-cyclopropyl-2-(2-trifluoromethoxy-phenyl)-2H-pyrazol-3-ylmethoxy]-2-methyl-phenyl}-methyl-amino)-methyl]-2-methoxy-benzoic acid methyl ester | 0.51 mmol, 0.30 g | COC(C1=C(C=C(C=C1)CN(C)C1=C(C=C(C=C1)OCC=1N(N=CC1C1CC1)C1=C(C=CC=C1)OC(F)(F)F)C)OC)=O | C32H32F3N3O5
reactant | sodium hydroxide | 5 N, 0.5 mL | [OH-].[Na+]
reactant | THF | 3 mL | C1CCOC1 | C4H8O
reactant | HCl | 5 N | Cl | ClH
solvent | water | O | H2O
solvent | methanol | 3 mL | CO | CH4O
product | 4-[({4-[4-Cyclopropyl-2-(2-trifluoromethoxy-phenyl)-2H-pyrazol-3-ylmethoxy]-2-methyl-phenyl}-methyl-amino)-methyl]-2-methoxy-benzoic Acid | 285 mg, 97% | C1(CC1)C1=C(N(N=C1)C1=C(C=CC=C1)OC(F)(F)F)COC1=CC(=C(C=C1)N(C)CC1=CC(=C(C(=O)O)C=C1)OC)C | C31H30F3N3O5
